US04546184
A five-liter, three-necked flask equipped with a mechanical stirrer, reflux condenser, and thermometer was charged with toluene (3.3 liters), triphenylphosphine (686 g, 2.62 mole), and pentafluorobenzyl bromide (343 g, 1.31 mole). The contents were stirred and heated slowly to reflux. A white precipitate formed as the reaction progressed. At the completion of the reaction the flask was cooled to ambient temperature and the solid product was filtered and washed with hot toluene (2.6 liters). These solids were dried in a vacuum desiccator to give a 90% yield of pentafluorobenzyltriphenylphosphonium bromide.

reactant | triphenylphosphine | 2.62 mole, 686 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pentafluorobenzyl bromide | 1.31 mole, 343 g | FC1=C(C(=C(C(=C1CBr)F)F)F)F | C7H2BrF5
reactant | toluene | 3.3 liters | C1(=CC=CC=C1)C | C7H8
product | pentafluorobenzyltriphenylphosphonium bromide | 90% yield | [Br-].FC1=C(C(=C(C(=C1[P+](C1=CC=CC=C1)(C1=CC=CC=C1)CC1=CC=CC=C1)F)F)F)F | InChI=1S/C25H17F5P.BrH/c26-20-21(27)23(29)25(24(30)22(20)28)31(18-12-6-2-7-13-18,19-14-8-3-9-15-19)16-17-10-4-1-5-11-17;/h1-15H,16H2;1H/q+1;/p-1
